US05106842
4-(2-Propoxy)-3-(tri-n-butylstannyl)cyclobut-3-ene-1,2-dione (V1)
A solution of 0.052M n-Bu4N+CN- in tetrahydrofuran (7.69 mL, 0.4 mmol) was added dropwise to a stirred solution at -20° C. of diisopropyl squarate (3.96 g, 0.020 mol) and n-Bu3SnSi(CH3)3 (7.27 g, 0.020 mol) in tetrahydrofuran (154 mL). Stirring was continued at -20° C. for 2 hrs. The solution was concentrated and the residue chromatographed on SiO2 with diethyl ether-hexane (10:90) to afford the title compound (5.75 g, 67% yield) as a yellow oil.

reactant | diisopropyl squarate | 0.020 mol, 3.96 g | CC(C)OC1=C(C(=O)C1=O)OC(C)C | C10H14O4
reactant | n-Bu3SnSi(CH3)3 | 0.020 mol, 7.27 g | [Sn](CCCC)(CCCC)(CCCC)[Si](C)(C)C
solvent | tetrahydrofuran | 154 mL | O1CCCC1 | C4H8O
catalyst | tetrahydrofuran | 0.4 mmol, 7.69 mL | O1CCCC1 | C4H8O
product | 4-(2-Propoxy)-3-(tri-n-butylstannyl)cyclobut-3-ene-1,2-dione | 5.75 g, 67% yield | CC(C)OC1=C(C(C1=O)=O)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C7H7O3.3C4H9.Sn/c1-4(2)10-6-3-5(8)7(6)9;3*1-3-4-2;/h4H,1-2H3;3*1,3-4H2,2H3;
